US05529853
To begin with, 1.53 g(7.84 mmol) of 10-hydroxybenzo [h] quinoline was dissolved in 40 ml of mixed solution of methanol and ethanol in a flask with heat to produce alcoholic quinoline solution; the ratio of methanol to ethanol was 1 : 1. Then, 0.69 g(3.92 mmol) of BeSo4.4H2O was dissolved in 100 ml of pure water in another flask to produce beryllium solution. Beryllium solution was gradually added to alcoholic quinoline solution while being stirred, then a substance emitting strong blue-green light appeared. To fully precipitate the substance, the pH of the solution was adjusted to mild alkaline from neutral by adding 1N NaOH solution. The precipitates were filtered off by suction and dried for 2 hours at 80° C. with heat, and sublimated by the train sublimation technique using a sublimation-purification unit. [For further information, see the paper of H. J. Wagner, R. O. Loutfy, C. K. Hsiao, J. Mater, Sci., 17, 2781(1982)] It is confirmed that the crystallites of the luminous material thus produced emit strong blue-green light having a peak wave length of 510 nm.

reactant | 10-hydroxybenzo [h] quinoline | 7.84 mmol, 1.53 g | OC1=CC=CC2=CC=C3C=CC=NC3=C21 | C13H9NO
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
